US09127003B2
Intermediate 29: (R)-tert-Butyl(1-(2-(1-(cyclopropylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-methyl-1H-benzo[d]imidazole-5-carbonyl)piperidin-3-yl)carbamate
A solution of 1-(cyclopropylmethyl)-1H-pyrrolo[2,3-b]pyridine-2-carbaldehyde (2 g, 8.99 mmol) in ethanol (90 mL) was added to a round bottom flask containing (R)-tert-butyl(1-(4-(methylamino)-3-nitrobenzoyl)piperidin-3-yl)carbamate (3.4 g, 8.98 mmol) and the resulting solution stirred at room temperature. A solution of sodium dithionite (3.14 g, 15.33 mmol) in water (45 mL) was added portionwise to the reaction mixture. The reaction mixture was heated to 100° C. and stirred under nitrogen for 4 hours. The reaction mixture was concentrated under vacuum then diluted with DCM (150 ml) and water (150 ml). The organic layer was collected and the aqueous layer washed with DCM (3×100 ml). Organic layers were collected and backwashed with water (2×100 ml). The organic layer was collected, dried with Na2SO4, filtered through a hydrophobic frit and concentrated under vacuum to yield a crude product. This was dissolved in a minimum volume of DCM and purified using Biotage SP4 on a 100 g SNAP silica cartridge. The column was eluted with a gradient of 70-100% ethyl acetate in DCM for 10CV. Appropriate fractions were collected and concentrated under vacuum. This was dried under vacuum to yield the title compound as a yellow solid (1.867 g).

reactant | 1-(cyclopropylmethyl)-1H-pyrrolo[2,3-b]pyridine-2-carbaldehyde | 8.99 mmol, 2 g | C1(CC1)CN1C(=CC=2C1=NC=CC2)C=O | C12H12N2O
reactant | (R)-tert-butyl(1-(4-(methylamino)-3-nitrobenzoyl)piperidin-3-yl)carbamate | 8.98 mmol, 3.4 g | C(C)(C)(C)OC(N[C@H]1CN(CCC1)C(C1=CC(=C(C=C1)NC)[N+](=O)[O-])=O)=O | C18H26N4O5
reactant | sodium dithionite | 15.33 mmol, 3.14 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | ethanol | 90 mL | C(C)O | C2H6O
solvent | water | 45 mL | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (R)-tert-Butyl(1-(2-(1-(cyclopropylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-1-methyl-1H-benzo[d]imidazole-5-carbonyl)piperidin-3-yl)carbamate | 1.867 g | C(C)(C)(C)OC(N[C@H]1CN(CCC1)C(=O)C1=CC2=C(N(C(=N2)C2=CC=3C(=NC=CC3)N2CC2CC2)C)C=C1)=O | C30H36N6O3
